US07241760B2
3-[1-(5-Fluoro-pyridin-3-yl)-2-methyl-1H-imidazol-4-ylethynyl]-benzonitrile
The title compound, MS: m/e=303.5 (M+), was prepared in accordance with the general method of example 1 from 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile and 3,5-difluoro-pyridine.

reactant | 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile | CC=1NC=C(N1)C#CC=1C=C(C#N)C=CC1 | C13H9N3
reactant | 3,5-difluoro-pyridine | FC=1C=NC=C(C1)F | C5H3F2N
product | 3-[1-(5-Fluoro-pyridin-3-yl)-2-methyl-1H-imidazol-4-ylethynyl]-benzonitrile | FC=1C=C(C=NC1)N1C(=NC(=C1)C#CC=1C=C(C#N)C=CC1)C | C18H11FN4
